US04308274
Synthesis of 1-naphthyl N-(N'-benzenesulfonyl-N'-methylaminosulfinyl)-N-methylcarbamate
To a solution of 1-naphthyl methylcarbamate (4.0 g, 0.02 mol) in 20 ml dry tetrahydrofuran was added pyridine (2.0 g, 0.025 mol) followed by thionyl chloride (2.5 g, 0.021 mol). The mixture was stirred at room temperature for 4 hours. Pyridine (2 g, 0.025 mol) was added and followed by 3.5 g (0.02 mol) N-methylbenzenesulfonamide and the mixture was stirred at room temperature overnight.

reactant | 1-naphthyl methylcarbamate | 0.02 mol, 4.0 g | CNC(OC1=CC=CC2=CC=CC=C12)=O | C12H11NO2
reactant | pyridine | 0.025 mol, 2.0 g | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 0.021 mol, 2.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | Pyridine | 0.025 mol, 2 g | N1=CC=CC=C1 | C5H5N
reactant | N-methylbenzenesulfonamide | 0.02 mol, 3.5 g | CNS(=O)(=O)C1=CC=CC=C1 | C7H9NO2S
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-naphthyl N-(N'-benzenesulfonyl-N'-methylaminosulfinyl)-N-methylcarbamate | C1(=CC=CC=C1)S(=O)(=O)N(S(=O)N(C(OC1=CC=CC2=CC=CC=C12)=O)C)C | C19H18N2O5S2
